US05700807
Ethyl 8-bromo-1-(2,5-dimethoxybenzyl)-4-(4-methoxyphenyl)-1,2-dihydro-2-oxobenzofuro[3,2-b]pyridine-3-carboxylate is reacted analogously to Example 3 with phenylboronic acid to give ethyl 8-phenyl-1-(2,5-dimethoxybenzyl)-4-(4-methoxyphenyl)-1,2-dihydro-2-oxobenzofuro[3,2-b]pyridine-3-carboxylate, m.p. 216°. By ester hydrolysis thereof the 8-phenyl-1-(2,5-dimethoxybenzyl)-4-(4-methoxyphenyl)-1,2-dihydro-2-oxobenzofuro[3,2-b]pyridine-3-carboxylic acid is obtained, m.p. 270°.

reactant | Ethyl 8-bromo-1-(2,5-dimethoxybenzyl)-4-(4-methoxyphenyl)-1,2-dihydro-2-oxobenzofuro[3,2-b]pyridine-3-carboxylate | BrC=1C=CC2=C(C1)C=1N(C(C(=C(C1O2)C2=CC=C(C=C2)OC)C(=O)OCC)=O)CC2=C(C=CC(=C2)OC)OC | C30H26BrNO7
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | ethyl 8-phenyl-1-(2,5-dimethoxybenzyl)-4-(4-methoxyphenyl)-1,2-dihydro-2-oxobenzofuro[3,2-b]pyridine-3-carboxylate | C1(=CC=CC=C1)C=1C=CC2=C(C1)C=1N(C(C(=C(C1O2)C2=CC=C(C=C2)OC)C(=O)OCC)=O)CC2=C(C=CC(=C2)OC)OC | C36H31NO7
